US04268692
To a -78° to -100° solution of 1.0 mol of 3-methoxyisophthalic acid dimethyl ester in 1-10.1 of toluene is slowly added 1.0 mol of diisobutylaluminum hydride as a 1 M solution in n-hexane. The reaction is stirred for 3 hours after the addition and then quenched by the addition of 10 mol of anhydrous methanol. The reaction is allowed to warm to room temperature and stirred until a filterable precipitate forms. The reaction is filtered and the filtrate evaporated to a residue. The residue is purified by crystallization, distillation or chromatography to yield 3-methoxyisophthalaldehydic acid methyl ester.

reactant | 3-methoxyisophthalic acid dimethyl ester | 1.0 mol | COC(C=1CC(C(=O)OC)(C=CC1)OC)=O | C11H14O5
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1.0 mol | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 10 mol | CO | CH4O
solvent | n-hexane | CCCCCC | C6H14
product | 3-methoxyisophthalaldehydic acid methyl ester | COC(C=1CC(C=O)(C=CC1)OC)=O | C10H12O4
